US04624961
4-Amino-5-chloro-2-methoxy-N-(1.2-diethyl-4-pyrazolidinyl)benzamide
The title compound was prepared as described in Example 6 of U.S. Pat. No. 4,207,327 from 4-acetamido-5-chloro-2-methoxy-benzoic acid thionyl chloride and 4-amino-1,2-diethylpyrazolidine, m.p. 117°-119° C.

reactant | 4-acetamido-5-chloro-2-methoxy-benzoic acid thionyl chloride | S(=O)(Cl)Cl.C(C)(=O)NC1=CC(=C(C(=O)O)C=C1Cl)OC
reactant | 4-amino-1,2-diethylpyrazolidine | NC1CN(N(C1)CC)CC | C7H17N3
product | 4-Amino-5-chloro-2-methoxy-N-(1.2-diethyl-4-pyrazolidinyl)benzamide | NC1=CC(=C(C(=O)NC2CN(N(C2)CC)CC)C=C1Cl)OC | C15H23ClN4O2
